US05306816
To a mixture of (3S,4S)-3-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl]-4-[(1R)-1-{(phenylthio)thiocarbonyl}ethyl]-2-oxoazetidine (100 mg) and cuprous chloride (30 mg) in acetonitrile (1 ml) was added (2S,4S)-1-allyloxycarbonyl-2-(dimethylcarbamoyl)-4-mercaptopyrrolidine (130 mg) and the mixture was stirred at the ambient temperature for 5 hours. The mixture was purified by preparative thin layer chromatography (developed with ethyl acetate) to give (3S,4S)-4-[(1R)-1-{((2S,4S)-1-allyloxycarbonyl-2-(dimethylcarbamoyl)pyrrolidin- 4-ylthio)thiocarbonyl}ethyl]-3-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl]-2-oxoazetidine (105 mg).

reactant | (3S,4S)-3-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl]-4-[(1R)-1-{(phenylthio)thiocarbonyl}ethyl]-2-oxoazetidine | 100 mg | C(C)(C)(C)[Si](O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=S)SC1=CC=CC=C1)=O)(C)C | C20H31NO2S2Si
reactant | (2S,4S)-1-allyloxycarbonyl-2-(dimethylcarbamoyl)-4-mercaptopyrrolidine | 130 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)C(N(C)C)=O | C11H18N2O3S
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | (3S,4S)-4-[(1R)-1-{((2S,4S)-1-allyloxycarbonyl-2-(dimethylcarbamoyl)pyrrolidin- 4-ylthio)thiocarbonyl}ethyl]-3-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl]-2-oxoazetidine | 105 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(=S)[C@H](C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)C(N(C)C)=O | C25H43N3O5S2Si
